US05451601
0.04 g of hydroxybenzotriazole hydrate is added to a solution, cooled to +5° C., of 1 g of (3aR,7R,7aR)-4,4-diphenyl-7-fluoroperhydroisoindole hydrochloride and 0,924 g of 2-{[3-(1-pyrrolidinyl)-2-propoxy]phenyl}acetic acid in 40 cm3 of dry dichloromethane followed by 0.79 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 0.51 cm3 of diisopropylethylamine. After stirring for 2.5 hours at +5° C. and 20 hours at 20° C., the reaction mixture is washed twice with 50 cm3 of water, dried over magnesium sulphate and then concentrated to dryness at 40° C. under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 2.4 cm, height 31 cm), eluting under a nitrogen pressure of 0.5 bar with an ethyl acetate, acetic acid and water mixture (60/10/10 by volume) and collecting fractions of 25 cm3. Fractions 11 to 31 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in 20 cm3 of dichloromethane, the solution is washed with 20 cm3 of a 1N aqueous solution of sodium hydroxide and then dried over magnesium sulphate and concentrated to dryness. This wash with a basic solution is repeated again. 0.68 g of (3aR,7R,7aR)-2-{{[3-(1-pyrrolidinyl)-2-propoxy]phenyl}acetyl}-4,4-diphenyl-7-fluoroperhydro-isoindole is obtained in the form of a white solid.

reactant | hydroxybenzotriazole hydrate | 0.04 g | O.OC1=CC=CC=2NN=NC21
reactant | (3aR,7R,7aR)-4,4-diphenyl-7-fluoroperhydroisoindole hydrochloride | 1 g | Cl.C1(=CC=CC=C1)C1([C@@H]2CNC[C@@H]2[C@@H](CC1)F)C1=CC=CC=C1
reactant | 2-{[3-(1-pyrrolidinyl)-2-propoxy]phenyl}acetic acid | 0,924 g | N1(CCCC1)CC(C)OC1=C(C=CC=C1)CC(=O)O | C15H21NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.79 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 0.51 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
product | (3aR,7R,7aR)-2-{{[3-(1-pyrrolidinyl)-2-propoxy]phenyl}acetyl}-4,4-diphenyl-7-fluoroperhydro-isoindole | 0.68 g | N1(CCCC1)CC(C)OC1=C(C=CC=C1)CC(=O)N1C[C@@H]2[C@@H](CCC([C@@H]2C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C35H41FN2O2
